US04654360
1-Benzyl-3-phenylsulfinylindole
This compound was prepared in the same manner as described in Example 7 using sodium hydride (0.036 g, 50% in mineral oil; 0.90 mmol), dimethylformamide (5 ml), 3-phenylsulfinylindole (0.200 g, 0.82 mmol) and benzyl bromide (0.11 ml, 0.154 g, 0.90 mmol). Crystallization of the crude product from dichloromethane-hexane gave the title compound. M.P.-148°-149° (dichloromethane-hexane).

reactant | sodium hydride | 0.90 mmol, 0.036 g | [H-].[Na+]
reactant | 3-phenylsulfinylindole | 0.82 mmol, 0.200 g | C1(=CC=CC=C1)S(=O)C1=CNC2=CC=CC=C12 | C14H11NOS
reactant | benzyl bromide | 0.90 mmol, 0.11 ml, 0.154 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-Benzyl-3-phenylsulfinylindole | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)S(=O)C1=CC=CC=C1 | C21H17NOS
